US07517875B2
After suspending 2-{[1-(3,5-dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid methyl ester (993 mg, 2.14 mmol) in methanol (10 ml), an aqueous lithium hydroxide solution (4M, 5.4 ml, 21.4 mmol) was added. The reaction mixture was stirred at 50° C. for 2 hours and then cooled to room temperature. 1N hydrochloric acid was added dropwise to adjust the pH to approximately 6.0. Ethyl acetate (1 ml) was then added and the mixture was stirred for 3 hours, after which the precipitate was filtered out to obtain 2-{[1-(3,5-dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid. The compound was identified by LC-MS.

reactant | 2-{[1-(3,5-dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid methyl ester | 2.14 mmol, 993 mg | COC(=O)C1=CC=CC=2NC(=NC21)NCC2CCN(CC2)CC2=C(C(=CC(=C2)Cl)Cl)O | C22H24Cl2N4O3
reactant | lithium hydroxide | 21.4 mmol, 4M, 5.4 ml | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | Ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | 2-{[1-(3,5-dichloro-2-hydroxy-benzyl)-piperidin-4-ylmethyl]-amino}-1H-benzimidazole-4-carboxylic acid | ClC=1C(=C(CN2CCC(CC2)CNC2=NC3=C(N2)C=CC=C3C(=O)O)C=C(C1)Cl)O | C21H22Cl2N4O3
